US06166203
A solution of 5-(4-fluorophenyl)-thieno[3,2-b]pyridin-7-ol (1.6 g) in phosphorus oxychloride (50 mL) is refluxed for 3 hours. After the excess amount of phosphorus oxychloride is removed under vacuum, the residue is treated with ethyl acetate (20 mL) and NaOH (2N, 20 mL). The mixture is then extracted with ethyl acetate (3×20 mL). The combined organic layers are washed with brine and dried over MgSO4. Evaporation of the solvent affords 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine (1.5 g, 88% yield) as a white solid, m.p. 119-121° C.

reactant | 5-(4-fluorophenyl)-thieno[3,2-b]pyridin-7-ol | 1.6 g | FC1=CC=C(C=C1)C1=CC(=C2C(=N1)C=CS2)O | C13H8FNOS
reactant | phosphorus oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine | 1.5 g, 88% yield | ClC1=C2C(=NC(=C1)C1=CC=C(C=C1)F)C=CS2 | C13H7ClFNS
